US07598423B2
Synthesis of 2-fluoro-3-methoxy-phenol
A mixture of 2-fluoroanisole (1.8 ml, 15.85 mmol), pentamethyldiethyenetriamine (3.6 mL, 17.45 mmol) and tetrahydrofuran (10 mL) is stirred at −78° C. A 2.5 M solution of n-butyllithium in hexanes (7 ml, 17.45 mmol) is added dropwise and the resulting solution is stirred at −78° C. 2 hr. Trimethylborate (2 mL, 17.45 mmol) is added and the reaction is warmed to room temperature and stirred 1 hr. Acetic acid (1.4 ml, 23.8 mmol) is added followed by an aqueous 30% solution of hydrogen peroxide (1.8 mL, 17.45 mmol) and the resulting mixture is stirred rapidly 18 hr at room temperature. The reaction mixture is diluted with water and extracted with ethyl acetate (3×50 mL). The combined extracts are dried over magnesium sulfate, filtered and concentrated to about 10 mL volume. The resulting mixture is purified via silica chromatography eluting with hexanes to 8:1 hexanes:ethyl acetate to give the title compound (1.65 g, 73%) as a colorless oil. MS ES 141 M−1.

reactant | 2-fluoroanisole | 15.85 mmol, 1.8 ml | FC1=C(C=CC=C1)OC | C7H7FO
reactant | pentamethyldiethyenetriamine | 17.45 mmol, 3.6 mL | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | n-butyllithium | C(CCC)[Li]
reactant | Trimethylborate | 17.45 mmol, 2 mL | COB(OC)OC | C3H9BO3
reactant | Acetic acid | 23.8 mmol, 1.4 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 17.45 mmol, 1.8 mL | OO | H2O2
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-fluoro-3-methoxy-phenol | 1.65 g, 73% | FC1=C(C=CC=C1OC)O | C7H7FO2
